US07132426B2
In a 32 mL reaction vial was placed a stir bar, Et3N (0.5 mL) and 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (1.3 g) dissolved in 10 mL anhydrous THF. Acetic acid chloride (0.48 g) was added dropwise through a syringe at 0° C. The mixture was stirred 2 hrs at room temperature. After worked up with H2O at 0° C., it was extracted with EtOAc. The organic extracts were washed with 2M NaOH solution, NaHSO4 and saturated NaCl solution. After dried over Na2SO4, it was concentrated to give crude 4-(acetylamino-methyl)-piperidine-1-carboxylic acid tert-butyl ester. 1H NMR (CDCl3, 400 MHz) δ 1.14 (m, 2H), 1.45 (s, 9H), 1.65 (m, 2H), 1.68 (m, 1H), 1.99 (s, 3H), 2.66 (m, 2H), 3.14 (m, 2H), 4.12 (m, 2H), 5.51 (m, 1H). Exact mass calculated for C13H24N2O3 256.18, found 257.4 (MH+).

reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
reactant | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | Acetic acid chloride | 0.48 g | C(C)(=O)Cl | C2H3ClO
reactant | H2O | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(acetylamino-methyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(C)=O | C13H24N2O3
